US07569578B2
(±)-N-(1-(1-(3,5-Difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
tert-Butyl 1-(1-(3,5-difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate (16.0 mg, 0.024 mmol) was dissolved in a minimum amount of ethyl acetate, and treated with hydrochloric acid (4 N in dioxane, 1.0 mL). The mixture was stirred under nitrogen for 3 days. After removal of the solvents, the crude mixture was treated with diethyl ether to give a precipitate which was filtered. The resulting solid was dissolved in dimethylformamide (1.0 mL), cooled to 0° C., and treated with carbonyl diimidazole (4.0 mg, 0.025 mmol, 1.1 equiv) and N′N-diisopropylethylamine (16.7 μL, 3 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred for 10 min, and treated with 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (5.8 mg, 0.025, 1.1 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to afford 7.5 mg (52%, 2 steps). 1H-NMR (CD3OD, 500 MHz) δ 1.40-1.58 (m, 4H), 2.42 (s, 3H), 2.61-2.72 (m, 2H), 3.14-3.24 (m, 2H), 3.92-4.06 (m, 2H), 4.15 (s, 2H), 4.25-4.38 (m, 1H), 4.10-5.24 (m, 2H), 5.42 (m, 1H), 6.32 (s, 1H), 6.33 (s, 1H), 6.61-6.78 (m, 3H), 6.82 (s, 1H), 6.90-6.99 (m, 1H), 7.08-7.13 (m, 2H), 7.86 (s, 1H). Mass spec.: 705.2 (MH)+.

reactant | tert-Butyl 1-(1-(3,5-difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | 0.024 mmol, 16.0 mg | FC=1C=C(CN2C(=NC=C2Br)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C(C1)F | C31H40BrF2N5O3Si
reactant | hydrochloric acid | 4 N, 1.0 mL | Cl | ClH
reactant | carbonyl diimidazole | 0.025 mmol, 4.0 mg, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 5.8 mg, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-N-(1-(1-(3,5-Difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | FC=1C=C(CN2C(=NC=C2Br)C(CC2=CC3=CNN=C3C(=C2)C)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=C(C1)F | C34H33BrF2N8O2
